US09403835B2
Step 3: 2-(2-hydroxy-1-methyl-ethoxy)-benzaldehyde
Manganese dioxide (4.02 g; 26.3 mmol; 5 eq.) was added to a solution of 2-(2-hydroxymethyl-phenoxy)-propan-1-ol (960 mg; 5.3 mmol; 1 eq.) in DCM (50 mL) and the resulting mixture was stirred at room temperature for 1.5 hour. The suspension was filtered through a short plug of Celite®. The solution was washed with water, dried over magnesium sulfate and concentrated in vacuo to afford the title compound (705 mg, 74%) as a colourless oil. UPLC/MS: (MS+) 181.1 ([M+H]+).

reactant | 2-(2-hydroxymethyl-phenoxy)-propan-1-ol | 5.3 mmol, 960 mg, 1 eq. | OCC1=C(OC(CO)C)C=CC=C1 | C10H14O3
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | Manganese dioxide | 26.3 mmol, 4.02 g, 5 eq. | [O-2].[O-2].[Mn+4]
product | 2-(2-hydroxy-1-methyl-ethoxy)-benzaldehyde | 705 mg, 74% | OCC(OC1=C(C=O)C=CC=C1)C | C10H12O3
